US08383635B2
1,1-dimethylethyl methyl(2-{[3-({4-[(3-methylphenyl)amino]-5-oxo-5,6-dihydropyrido[4,3-d]pyrimidin-2-yl}amino)propyl]amino}-2-oxoethyl)carbamate
To a solution of 2-[(3-aminopropyl)amino]-4-[(3-methylphenyl)amino]pyrido[4,3-d]pyrimidin-5(6H)-one (50 mg, 0.114 mmol) in N,N-Dimethylformamide (DMF) (1.5 mL) were added N-{[(1,1-dimethylethyl)oxy]carbonyl}-N-methylglycine (25.9 mg, 0.137 mmol), 1H-1,2,3-benzotriazol-1-ol hydrate (34.9 mg, 0.228 mmol), 4-methylmorpholine (57.7 mg, 0.570 mmol), and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (28.4 mg, 0.148 mmol), and the reaction mixture was stirred for 2.5 h. It was then concentrated and the residue was subjected to reverse-phase HPLC purification to give 33 mg of the title compound.

reactant | 2-[(3-aminopropyl)amino]-4-[(3-methylphenyl)amino]pyrido[4,3-d]pyrimidin-5(6H)-one | 0.114 mmol, 50 mg | NCCCNC=1N=C(C2=C(N1)C=CNC2=O)NC2=CC(=CC=C2)C | C17H20N6O
reactant | N-{[(1,1-dimethylethyl)oxy]carbonyl}-N-methylglycine | 0.137 mmol, 25.9 mg | CC(C)(C)OC(=O)N(CC(=O)O)C | C8H15NO4
reactant | 1H-1,2,3-benzotriazol-1-ol hydrate | 0.228 mmol, 34.9 mg | O.N1(N=NC2=C1C=CC=C2)O
reactant | 4-methylmorpholine | 0.570 mmol, 57.7 mg | CN1CCOCC1 | C5H11NO
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.148 mmol, 28.4 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-Dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | 1,1-dimethylethyl methyl(2-{[3-({4-[(3-methylphenyl)amino]-5-oxo-5,6-dihydropyrido[4,3-d]pyrimidin-2-yl}amino)propyl]amino}-2-oxoethyl)carbamate | 33 mg | CN(C(OC(C)(C)C)=O)CC(=O)NCCCNC=1N=C(C2=C(N1)C=CNC2=O)NC2=CC(=CC=C2)C | C25H33N7O4
